US05635510
32.5 Synthesis of 1-tert-butoxycarbonyl-4-(pyridin-3-yl)-piperidine-4-carboxylic acid amide
Prepare by the method of example 20.8 using 1-tert-butoxycarbonyl-4-(pyridin-3-yl)-piperidine-4-carboxylic acid (4.0 mmol) and NH3 (gas). Purify to give the title compound.

reactant | 1-tert-butoxycarbonyl-4-(pyridin-3-yl)-piperidine-4-carboxylic acid | 4.0 mmol | C(C)(C)(C)OC(=O)N1CCC(CC1)(C(=O)O)C=1C=NC=CC1 | C16H22N2O4
reactant | NH3 | N | H3N
product | 1-tert-butoxycarbonyl-4-(pyridin-3-yl)-piperidine-4-carboxylic acid amide | C(C)(C)(C)OC(=O)N1CCC(CC1)(C(=O)N)C=1C=NC=CC1 | C16H23N3O3
